US06355642B1
6-Bromo-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 20 ml portion of 1,2-dichloroethane solution containing 0.50 g (1.62 mmol) of 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]-indole-2(1H)-one was cooled to −20° C. and mixed with 0.10 ml (1.94 mmol) of bromine. The reaction solution was stirred at −20° C. for 1 hour, extracted with chloroform and then washed with saturated sodium thiosulfate aqueous solution and saturated sodium bicarbonate aqueous solution in that order. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the thus obtained residue was re-precipitated from ethyl acetate-hexane to obtain 0.54 g of the title compound (86% in yield).

reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]-indole-2(1H)-one | 1.62 mmol, 0.50 g | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
reactant | bromine | 1.94 mmol, 0.10 ml | BrBr | Br2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 6-Bromo-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.54 g, 86% | BrC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C15H17Br2NO
